US20010025039A1
8-(2-Nitro-propenyl)-2,3-dihydro-1H-3a,6-diaza-cyclopenta[a]indene
To a solution of 2,3-dihydro-1H-3a,6-diaza-cyclopenta[a]indene-8-carbaldehyde (0.30 g 1.6 mMol) in nitroethane (3.00 ml) was added ammonium acetate (0.30 g 3.9 mMol) and the mixture was heated to 100° C. for 4 h with stirring under argon. The mixture was cooled to room temperature and purified by chromatography on silicagel gel (ca 30 g) eluting first with ethyl acetate (ca 100 ml) then with a mixture of ethyl acetate (9 parts) and methanol (1 part). The product fraction were combined, concentrated and the residue was recrystallised from ethyl acetate to yield the title compound (0.30 g, 77%) as yellow crystals. mp 141-142° C. Found C, 64.05; H, 5.51; N, 17.14%; C13H13N3O2 requires C, 64.19; H, 5.39; N, 17.27%.

reactant | 2,3-dihydro-1H-3a,6-diaza-cyclopenta[a]indene-8-carbaldehyde | 1.6 mMol, 0.30 g | C1CCN2C1=C(C=1C=NC=CC21)C=O | C11H10N2O
reactant | ammonium acetate | 3.9 mMol, 0.30 g | C(C)(=O)[O-].[NH4+]
reactant | nitroethane | 3.00 ml | [N+](=O)([O-])CC | C2H5NO2
product | 8-(2-Nitro-propenyl)-2,3-dihydro-1H-3a,6-diaza-cyclopenta[a]indene | 0.30 g, 77% | [N+](=O)([O-])C(=CC1=C2N(C=3C=CN=CC13)CCC2)C | C13H13N3O2
